US04810713
1-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone
A mixture of 5.0 g (0.0165 mole) of α,α-bis(p-fluorophenyl)-4-piperidinemethanol, 4.0 g (0.0165 mole) of 3-(p-acetyl-o-methoxyphenoxy)propyl chloride and 1.4 g (0.0165 mole) of sodium bicarbonate in 60 ml of dimethylformamide was stirred and heated at 80° C. for two hours. The temperature was raised to 100° C. for one hour. After cooling, the reaction mixture was filtered and the dimethylformamide was removed at reduced pressure. The residual oil which crystallized on standing in ether was dissolved in benzene and placed on a Florisil® column. Using a gradient elution of acetone-benzene, 1.8 g (21.4%) of product was obtained from the column, m.p. 141.5°-143° C. (See Ex. 12, U.S. Pat. No. 3,956,296).

reactant | α,α-bis(p-fluorophenyl)-4-piperidinemethanol | 0.0165 mole, 5.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 3-(p-acetyl-o-methoxyphenoxy)propyl chloride | 0.0165 mole, 4.0 g | C(C)(=O)C1=CC(=C(OCCCCl)C=C1)OC | C12H15ClO3
reactant | sodium bicarbonate | 0.0165 mole, 1.4 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone | 1.8 g, 21.4% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC)(O)C1=CC=C(C=C1)F | C30H33F2NO4
